US08283353B2
4-[cis-4-(4-methoxyphenoxy)cyclohexyl]-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
To a solution of 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.46 g), 4-methoxyphenol (0.27 g) and triphenylphosphine (0.28 g) in tetrahydrofuran (1.0 mL) was added dropwise a solution of diisopropyl azodicarboxylate (0.58 mL, 1.9 M toluene solution) in tetrahydrofuran (1.5 mL) at 0° C., and the mixture was stirred at room temperature for 5.5 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. A solution of the residue obtained by purification by silica gel column chromatography in dimethyl sulfoxide (2 mL) was added to a mixture of hydroxylammonium chloride (1.0 g), sodium hydrogen carbonate (1.7 g), and dimethyl sulfoxide (3 mL), which had been stirred at 40° C. for 30 min in advance, and the mixture was stirred at 90° C. for 15 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (5 mL). N,N′-Carbonyldiimidazole (0.19 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.18 mL) were added, and the mixture was stirred at room temperature for 40 min. Ethyl acetate and water were added to the reaction mixture, and the mixture was acidified with 1 M hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.25 g, 39%).

reactant | 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.46 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C28H29N5O2
reactant | 4-methoxyphenol | 0.27 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | triphenylphosphine | 0.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.9 M, 0.58 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | hydroxylammonium chloride | 1.0 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 1.7 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 4-[cis-4-(4-methoxyphenoxy)cyclohexyl]-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.25 g, 39% | COC1=CC=C(O[C@H]2CC[C@H](CC2)N2C=3N(C(=C(C2=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O)CCC)N=CN3)C=C1 | C36H36N6O5
